US20010025039A1
2-(3-Chloro-propyl)-1H-pyrrolo[2,3-b]pyridine (5.6 g) was dissolved in acetonitrile under a stream of argon. Potassium iodide (6 g) was added, and sodium hydride in mineral oil (4.60 g) added in small portions. After stirring 2 h at room temperature, the mixture was poured onto a mixture of ice and saturated sodium hydrogencarbonate solution. The organics were extracted twice with ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate and evaporated to afford 2,3-dihydro-1H-3a,4-diaza-cyclopenta[a]indene as a crude pale brown solid (4.5 g, 99%), which was used without further purification. MS (EI) 159 (M+H)+, 143, 100; 1H NMR (δ, CDCl3) 8.19 (dd,1H, J=1,5 Hz), 7.80 (dd,1H, J=1,8 Hz), 6.99 (dd,1H, J=5,8 Hz), 6.12 (s,1H), 4.22 (t,2H, J=6 Hz), 3.05 (t,2H, J=8 Hz), 2.63 (dt,2H, J=6,8 Hz) ppm.

reactant | 2-(3-Chloro-propyl)-1H-pyrrolo[2,3-b]pyridine | 5.6 g | ClCCCC1=CC=2C(=NC=CC2)N1 | C10H11ClN2
reactant | Potassium iodide | 6 g | [I-].[K+]
reactant | sodium hydride | [H-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2,3-dihydro-1H-3a,4-diaza-cyclopenta[a]indene | C1CCN2C1=CC=1C=CC=NC21 | C10H10N2
